US07094908B2
Ethyl 3-(4-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (0.64 g, 51%) in the same manner as described in the above example 5 (20) from ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.68 g, 3.34 mmol) and 3-nitrophthalic anhydride (0.84 g, 4.33 mmol), and the obtained product was identified with the following NMR data.

reactant | ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 3.34 mmol, 0.68 g | NCC(C(=O)OCC)C1(OCCO1)C | C9H17NO4
reactant | 3-nitrophthalic anhydride | 4.33 mmol, 0.84 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
product | Ethyl 3-(4-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | [N+](=O)([O-])C1=C2C(N(C(C2=CC=C1)=O)CC(C(=O)OCC)C1(OCCO1)C)=O | C17H18N2O8
